US07169926B1
To a solution of [3-(5-methyl-4-oxo-4,5-dihydro-3H-1,3,5,6-tetraaza-cyclopenta[a]naphthalen-2-yl)-cyclohexyl]-carbamic acid benzyl ester (45 mg, 0.10 mmol) in DMF (2 mL) was added NaH (5 mg, 0.12 mmol 60% in mineral oil) at 0° C. After hydrogen evolution had ceased, 2-cyanobenzylbromide (31 mg, 0.16 mmol) was added and the reaction was stirred at room temperature for 2 h. The flask was cooled with an ice-bath, and the reaction was quenched by addition of saturated aqueous NH4Cl. The mixture was extracted with CH2Cl2 and the organics were dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography, eluting with 1% MeOH to give {3-[3-(2-cyano-benzyl)-5-methyl-4-oxo-4,5-dihydro-3H-1,3,5,6-tetraaza-cyclopenta[a]naphthalen-2-yl]-cyclohexyl}-carbamic acid benzyl ester (55 mg, 97% yield). 1H-NMR (CDCl3): δ 8.58 (m, 2H), 7.75 (m, 1H), 7.48 (m, 1H), 7.35 (m, 6H), 7.17 (d, 1H, J=7.6 Hz), 6.26 (m, 1H), 5.96 (m, 1H), 5.08 (s, 2H), 3.91 (s, 3H), 3.69 (m, 1H), 2.93 (m, 1H), 2.08 (m, 1H), 1.98 (m, 1H), 1.83 (m, 2H), 1.76 (m, 1H), 1.59 (m, 1H), 1.51 (m, 1H), 1.33 (m, 1H). MS: calculated for C32H30N6O3+H 547.3; found: 547.2.

reactant | [3-(5-methyl-4-oxo-4,5-dihydro-3H-1,3,5,6-tetraaza-cyclopenta[a]naphthalen-2-yl)-cyclohexyl]-carbamic acid benzyl ester | 0.10 mmol, 45 mg | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C=1NC2=C(C3=CC=CN=C3N(C2=O)C)N1)=O | C24H25N5O3
reactant | NaH | 0.12 mmol, 5 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-cyanobenzylbromide | 0.16 mmol, 31 mg | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | {3-[3-(2-cyano-benzyl)-5-methyl-4-oxo-4,5-dihydro-3H-1,3,5,6-tetraaza-cyclopenta[a]naphthalen-2-yl]-cyclohexyl}-carbamic acid benzyl ester | 55 mg, 97% yield | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C=1N(C2=C(C3=CC=CN=C3N(C2=O)C)N1)CC1=C(C=CC=C1)C#N)=O | C32H30N6O3
